US07265120B2
A mixture of 6-acetyl-2-isopropyl-3(2H)-pyridazinone (74.0 g) and t-butylnitrite (73.3 ml) in THF (740 ml) was stirred at 0° C. Pottasium t-butoxide (55.3 g) was added to the reaction mixture. Then the reaction mixture was stirred at 25° C. for 1 hour. Water, 1N HCl and EtOAc were added to the reaction mixture. The organic layer was washed with 1N HCl, aq. NaHCO3 and brine. The organic layer was separated, and dried over MgSO4. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography eluted with a mixture of n-hexane and EtOAc. The fractions were concentrated in vacuo to obtain (1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)(oxo)-acetaldehyde oxime (15.0 g) as white powder.

reactant | 6-acetyl-2-isopropyl-3(2H)-pyridazinone | 74.0 g | C(C)(=O)C=1C=CC(N(N1)C(C)C)=O | C9H12N2O2
reactant | t-butylnitrite | 73.3 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | t-butoxide | 55.3 g | CC(C)([O-])C
reactant | HCl | 1N | Cl | ClH
solvent | THF | 740 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | (1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)(oxo)-acetaldehyde oxime | 15.0 g | C(C)(C)N1N=C(C=CC1=O)C(C=NO)=O | C9H11N3O3
